US04777270
5-(3,3-Dimethylbutanoyl)-3-methyl-1,2-di(2-[2-(2-tetrahydropyranyloxy)ethoxy]ethoxy)benzene
A solution of 3-methyl-5-(3,3-dimethylbutanoyl)catechol (12 g, 0.054 mole), 2-(2-[2-chloroethoxy]ethoxy)tetrahydropyran (24.8 g, 0.119 mole) and potassium carbonate (16.6 g, 0.12 mole) in 100 ml dimethylformamide was stirred under a nitrogen atmosphere at 140° C. for 16 hours. The reaction mixture was cooled to 25° C. and 500 ml diethyl ether and 300 ml water were added. The layers were separated and the organic layer was washed with four 250 ml portions of water and 100 ml brine, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo. The resulting brown oil was purified by column chromatography over silica gel with 10% ethyl acetate--90% chloroform. The title compound was isolated as a yellow oil (13.5 g, 44% yield).

reactant | 3-methyl-5-(3,3-dimethylbutanoyl)catechol | 0.054 mole, 12 g | CC1=C(C(O)=CC(=C1)C(CC(C)(C)C)=O)O | C13H18O3
reactant | 2-(2-[2-chloroethoxy]ethoxy)tetrahydropyran | 0.119 mole, 24.8 g | ClCCOCCOC1OCCCC1 | C9H17ClO3
reactant | potassium carbonate | 0.12 mole, 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 5-(3,3-Dimethylbutanoyl)-3-methyl-1,2-di(2-[2-(2-tetrahydropyranyloxy)ethoxy]ethoxy)benzene | CC(CC(=O)C=1C=C(C(=C(C1)OCCOCCOC1OCCCC1)OCCOCCOC1OCCCC1)C)(C)C | C31H50O9
